US05891889
Step B: 1-Phenylpiperidin-4-one
8-Phenyl-1,4-dioxa-8-azaspiro[4.5]decane (18.1 g, 82.5 mmol) was dissolved in a mixture of acetic acid (150 mL), water (150 mL), and conc. hydrochloric acid (38 mL) and the resulting solution was heated to 50° C. for 18 hrs. The reaction mixture was cooled in an ice-water bath, and sodium hydroxide pellets were added in portions until the mixture was neutralized. This mixture was extracted with dichloromethane (3×300 mL) and the combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo to give a dark oil. Chromatography on silica gel, eluting with hexane--10% ethyl acetate gave the product as a pale yellow oil.

reactant | 8-Phenyl-1,4-dioxa-8-azaspiro[4.5]decane | 82.5 mmol, 18.1 g | C1(=CC=CC=C1)N1CCC2(OCCO2)CC1 | C13H17NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | water | 150 mL | O | H2O
solvent | hydrochloric acid | 38 mL | Cl | ClH
product | 1-Phenylpiperidin-4-one | C1(=CC=CC=C1)N1CCC(CC1)=O | C11H13NO
